2174-09-02 07:04:00 Physician Resident Progress Note
Chief Complaint: Hypotension
   24 Hour Events:
 ARTERIAL LINE - START [**2174-9-1**] 10:00 AM
   new line placed
 MULTI LUMEN - START [**2174-9-1**] 12:00 PM
 PICC LINE - STOP [**2174-9-1**] 01:00 PM
 FEVER - 101.4
F - [**2174-9-2**] 01:00 AM--> cultured
   Patient started on levophed, vasopressin. When these were maxed,
   started dopamine. Patient became tacchycardic with bigeminy. Switched
   to neo. HR back down to low 100s. Patient was bolused with IV NS (3
   liters) and D5W with 3 amps of bicarb (2 units) until CVPs were at goal
   [**7-12**] and lactate was stable/trending down. Patient oliguric. Patient
   anxious and in pain overnight. Received IV morphine and 1 mg IV ativan.
   Patient is alert and oriented x 3 but now making statements like "can I
   leave the hospital today." She feels swollen, diffuse arthralgias,
   warm. Rash is pruritic and bothering her esp when she was febrile. No
   chest or abdominal pain. Patient feels that her work of breathing is
   not worse but she is purse lip breathing.
   Allergies:
   Ceclor (Oral) (Cefaclor)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2174-9-1**] 05:00 PM
   Levofloxacin - [**2174-9-2**] 02:00 AM
   Aztreonam - [**2174-9-2**] 03:07 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Norepinephrine - 0.5 mcg/Kg/min
   Phenylephrine - 1.6 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2174-9-2**] 01:30 AM
   Lorazepam (Ativan) - [**2174-9-2**] 04:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-9-2**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.5
C (99.5
   HR: 108 (97 - 129) bpm
   BP: 91/42(52) {76/41(50) - 102/42(57)} mmHg
   RR: 24 (13 - 34) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 18 (6 - 19)mmHg
   Mixed Venous O2% Sat: 76 - 76
   Total In:
                                                                 10,415 mL
                                                                  2,245 mL
   PO:
   TF:
   IVF:
                                                                 10,415 mL
                                                                  2,245 mL
   Blood products:
   Total out:
                                                                    120 mL
                                                                     30 mL
   Urine:
                                                                    120 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 10,295 mL
                                                                  2,216 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.28/30/98.[**Numeric Identifier 20**]/13/-11
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese, Anxious
   Eyes / Conjunctiva: PERRL, anicteric
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), tacchycardic, no mgr
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Cool, Rash: extremities and abdomen- nonblanching purpuric rash.
   Chest- blanching maculopapular rash
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x 3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   59 K/uL
   10.6 g/dL
   255 mg/dL
   3.0 mg/dL
   13 mEq/L
   3.9 mEq/L
   36 mg/dL
   103 mEq/L
   133 mEq/L
   30.3 %
   15.3 K/uL
        [image002.jpg]
                             [**2174-9-1**]  01:33 PM
                             [**2174-9-1**]  03:45 PM
                             [**2174-9-1**]  06:56 PM
                             [**2174-9-1**]  07:17 PM
                             [**2174-9-1**]  09:53 PM
                             [**2174-9-2**]  12:42 AM
                             [**2174-9-2**]  01:25 AM
                             [**2174-9-2**]  04:52 AM
                             [**2174-9-2**]  05:55 AM
                             [**2174-9-2**]  06:12 AM
   WBC
   16.2
   13.9
   14.6
   15.3
   Hct
   37.0
   29.9
   31.2
   30.3
   Plt
   68
   43
   53
   59
   Cr
   2.4
   2.6
   3.0
   TCO2
   12
   15
   13
   16
   17
   15
   Glucose
   133
   324
   255
   Other labs: PT / PTT / INR:21.1/38.0/2.0, ALT / AST:168/209, Alk Phos /
   T Bili:143/1.6, Amylase / Lipase:29/25, Differential-Neuts:65.0 %,
   Band:32.0 %, Lymph:1.0 %, Mono:0.0 %, Eos:1.0 %, D-dimer:9713 ng/mL,
   Fibrinogen:298 mg/dL, Lactic Acid:3.8 mmol/L, Albumin:1.6 g/dL,
   LDH:1144 IU/L, Ca++:6.6 mg/dL, Mg++:1.4 mg/dL, PO4:5.4 mg/dL
   Microbiology: Bld cx growing out gpcs in pairs and clusters
   Assessment and Plan
   A/P:
   46 year-old otherwise healthy female with fever, rash, arthralgias of
   unknown origin now with hypotension.
   .
   #. Hypotension - Likely secondary to sepsis. Sepsis most likely due to
   PICC contamination - [**12-1**] positive blood cultures (gram positive cocci
   in clusters and pairs) to date (positive drawn from PICC). TTE from
   [**2174-8-25**] shows normal heart function making cardiogenic source less
   likely. No e/o tamponade on most recent echo. Obstructive source such
   as PE possible given recent immobility secondary to illness.
   - PICC removed, culture pending
   -[**Hospital1 **] blood cx
   -consider TEE as TTE neg
   - Continue vancomycin therapy, broadened to included aztreonam and
   levaquin given worsening status
   - Continue to bolus with fluids for goal CVP 8-12 and MAP > 65
   - Continue pressors to acheive bp goals since cvp at goal
   - Mixed venous O2 sats > 70% and crit > 30 so no need for transfusion
   - [**Last Name (un) 567**] stim negative, gave one dose steroids before this came back
   - Follow-up cultures and serologies
   .
   #. Acute renal failure - Patient with oliguric renal failure. FENA is
   0.9. Has made 30 cc over the last 24 hours. UA without casts but
   positive rbcs. Urine eos pending. U/S without evidence of RAS or
   hydronephrosis. Likely ATN [**1-1**] sepsis, hypotension and early DIC.
   Electrolytes stable. Urine eos pending.
   - renal consult in am
   - f/u urine eos
   - bolus IV fluids: NS alternating with D5 with bicarb
   - avoid nephrotoxins
   .
   #. Coagulopathy/thrombocytopenia: could be due to sepsis as bandemia is
   increasing as well as early DIC as FDP, d-dimer, PTT, INR rising and
   fibrinogen falling.
   -cont to monitor [**Hospital1 **] DIC labs
   -consider onc consult
   .
   #. Fever/rash/arthralgias - Extensive workup with no clear source. DDx
   includes rheumatologic vs. infectious vs. malignancy. To date, 1 out of
   2 blood cultures positive for GPCs in clusters and pairs. Additional 2
   blood cultures pending. Urine culture, LP negative. Lyme, erlichia,
   rpr, rmsf titers, monospot, herpes, cmv, hiv, hep b and c serologies,
   malaria smear negative.  Infectious w/u pending here. Given
   arthralgias, rheumatologic disease also a possibility - given high
   ferritin, currently considering Still's disease on differential. [**Doctor First Name **],
   Rh factor, ccp, parvovirus, HLA b27 negative. ID, rheumatology
   involved. - awaiting additional labs - infectious hepatitis, HIV,
   cryoglobulins.
   - appreciate derm involvment, awaiting bx results
   - Continue vancomycin for bacteremia, added aztreonam and levaquin
   overnight as patient still febrile and hypotensive on 3 pressors
   - Continue doxycycline empirically for tick borne illness
   - Acetaminophen 650 mg PO Q6H:PRN temp - limit dose secondary to mild
   transaminitis
   - Continue to monitor blood cultures, picc, urine cx
   - Follow-up ID recs: sent for cryptococcus ag, hisotplasma ag,
   coxiella, brucella, leptospirosis, strongyloides ag.
   - Follow-up rheumatology recs
   -consider steroids for possible vasculitis although renal failure more
   likely related to sepsis/dic physiology
   - consider onc consult for bm bx
   - Benadryl prn
   .
   # Transaminitis- elevated on admission associated with her initial
   presentation of fever, rash, arthralgias. LFTs stable, trending down
   except for tbili.  RUQ US not technically good, but no evidence of
   cholecystitis or biliary duct dilation. This could be viral or other
   infectious process. Hep serologies neg at osh. Pending here. Consider
   EBV. Could also be c/w stills disease. Should be higher if shock liver.
   -trend lfts
   -f/[**Location 134**] [**Location (Universities) 1396**] u/s
   -f/u hep and other infectious serologies
   .
   #. Diabetes mellitus: holding po meds
   - Continue sliding scale insulin at this time, may need to uptitrate as
   sugars are elevated in response to stress
   .
   #. FEN/GI - NPO sips okay, repletes lytes prn, IV fluid bolus prn for
   above goals
   .
   #. Prophylaxis - Pneumatic compression boots, no subq heparin given
   possibility of HIT, bowel regimen
   .
   #. Code status - Full code confirmed
   .
   #. Access - PIV, central line, a-line
   .
   #. Communication: with husband and sister, numbers in chart and pt's
   room
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2174-9-1**] 10:00 AM
   Multi Lumen - [**2174-9-1**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2174-09-03 07:18:00 Physician Resident Progress Note
Chief Complaint: Sepsis, respiratory failure, DIC
   24 Hour Events:
 INVASIVE VENTILATION - START [**2174-9-2**] 03:00 PM
   - Worsening rash, appears to be purpura fulminans.
   - On 3 pressors, weaned off neo temporarily but restarted.
   - Heme/onc & renal consulted.  Heme/onc felt that pt is in DIC.  No e/o
   schistos on smear to suggest TTP/HUS.  Renal recommended bicarb.
   - Anuric.
   - Worsening metabolic acidosis along w/ respiratory distress (CXR w/
   bilat fluffy infiltrates) and patient intubated.
   - Confused after getting ativan, requiring soft restraints.
   - Decision made to give Xigris (96hr) after head CT done & negative.
   - Started Solumedrol 1g/d per rheum & derm, who are concerned that she
   has Stills, which may be driving DIC.
   - Family confirmed pt full code.
   - Sent off numerous coag studies (ATIII, Prot C &S, Lupus anticoag
   profile, prothrombin, ADAMTS13)
   - Per rheum, will need to check C3,4 48 hours after steroids initiated.
   - ID recommended TEE given bacteremia
   - Fibrinogen 190, received additonal 2 units cryoprecipitate.
   - Hypotensive with max dose levophed and vaso, phenylephrine restarted.
   - Switched to pressure support with improvement in ABG.
   Allergies:
   Ceclor (Oral) (Cefaclor)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2174-9-1**] 05:00 PM
   Levofloxacin - [**2174-9-2**] 02:00 AM
   Aztreonam - [**2174-9-2**] 03:07 AM
   Doxycycline - [**2174-9-2**] 12:00 PM
   Meropenem - [**2174-9-2**] 02:00 PM
   Clindamycin - [**2174-9-3**] 05:00 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Fentanyl - 125 mcg/hour
   Norepinephrine - 0.5 mcg/Kg/min
   Midazolam (Versed) - 8 mg/hour
   Drotrecogin (Xigris) - 24 mcg/Kg/hour
   Other ICU medications:
   Sodium Bicarbonate 8.4% (Amp) - [**2174-9-2**] 11:56 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-9-3**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 38.3
C (101
   HR: 115 (100 - 125) bpm
   BP: 91/42(52) {0/0(0) - 0/0(0)} mmHg
   RR: 18 (17 - 34) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 16 (15 - 26)mmHg
   Total In:
                                                                  6,282 mL
                                                                  2,474 mL
   PO:
   TF:
   IVF:
                                                                  6,032 mL
                                                                  2,174 mL
   Blood products:
                                                                    150 mL
                                                                    300 mL
   Total out:
                                                                    223 mL
                                                                     60 mL
   Urine:
                                                                    223 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,059 mL
                                                                  2,414 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 852 (771 - 852) mL
   PS : 10 cmH2O
   RR (Set): 30
   RR (Spontaneous): 23
   PEEP: 15 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 11 cmH2O
   SpO2: 98%
   ABG: 7.26/34/150/14/-10
   Ve: 13.2 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: Sedated, unresponsive
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tacchycardic, no mgr
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: at bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Cold, Rash: extremities and abdomen- nonblanching purpuric rash
   worse compared to yesterday. Chest- blanching maculopapular rash
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x 3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   56 K/uL
   9.7 g/dL
   228 mg/dL
   4.7 mg/dL
   14 mEq/L
   4.7 mEq/L
   67 mg/dL
   99 mEq/L
   135 mEq/L
   28.0 %
   14.4 K/uL
        [image002.jpg]
                             [**2174-9-2**]  01:51 PM
                             [**2174-9-2**]  03:57 PM
                             [**2174-9-2**]  04:31 PM
                             [**2174-9-2**]  07:56 PM
                             [**2174-9-2**]  10:13 PM
                             [**2174-9-2**]  10:28 PM
                             [**2174-9-2**]  11:45 PM
                             [**2174-9-3**]  12:48 AM
                             [**2174-9-3**]  05:01 AM
                             [**2174-9-3**]  05:29 AM
   WBC
   18.1
   16.8
   14.4
   Hct
   29.2
   28.7
   28.0
   Plt
   60
   60
   56
   Cr
   4.3
   4.7
   TCO2
   12
   14
   13
   14
   15
   17
   16
   Glucose
   104
   82
   228
   Other labs: PT / PTT / INR:19.0/105.2/1.7, CK / CKMB /
   Troponin-T:373//, ALT / AST:178/301, Alk Phos / T Bili:218/3.5, Amylase
   / Lipase:29/25, Differential-Neuts:88.7 %, Band:20.0 %, Lymph:7.7 %,
   Mono:2.5 %, Eos:0.7 %, D-dimer:9713 ng/mL, Fibrinogen:311 mg/dL, Lactic
   Acid:4.3 mmol/L, Albumin:1.8 g/dL, LDH:2301 IU/L, Ca++:6.5 mg/dL,
   Mg++:2.0 mg/dL, PO4:9.4 mg/dL
   Assessment and Plan
   46 year-old female with fever, rash, arthralgias of unknown origin now
   with sepsis, respiratory failure, and DIC.
   .
   #. Hypotension - Likely secondary to sepsis, although source unknown at
   this time.  You has grown out coag negative staph in two different sets
   on different days, making contamination unlikely.  Unlikely, however,
   for coag negative staph to cause severity of DIC that patient currently
   has.
   - Continue meropenem, dose vanco based on serum level this AM
   - Surveillance cultures this PM.
   - f/u blood and PICC tip cultures
   - Given possibility of Still
s, solumedrol 1 gram Q24H x3 days (day
   [**1-2**])
   - TEE recommended per ID
   - Continue to bolus with IVF for goal CVP>8 and MAP>654
   - Continue levophed and vasopressin. Attempt to wean off phenyephrine.
   - F/u cultures and serologies.
   - Continue using current left subclavian CVL for now. If patient has
   blood cultures this afternoon that are negative tomorrow afternoon,
   will consider switching out with clean CVL.
   .
   #. Acute renal failure - Patient now with oliguric renal failure,
   improved from anuria yesterday.  Likely secondary to DIC causing
   thrombosis formation in addition to hyptoension causing ATN.
   Creatinine continues to rise, this AM to 4.7 from 4.3.  Potassium
   trending up to 4.7 from 4.3.
   - Discuss with renal regarding CVVH
   - Patient will require additional vas cath for CVVH, which will require
   holding APC.  Will also likely require platelets during procedure.
   - Patient with HCO3 of 14, received 2 amps of bicarb and 100 meq in 1L
   IVF overnight.  Follow-up with renal regarding continued bicarb
   replacement.
    .
   #. Coagulopathy/thrombocytopenia: Most likely secondary to DIC.
   Patient has received 4 units of cryo yesterday/overnight. Per heme-onc,
   will transfuse cryoprecipitate for fibrinogen <250.
   - Cont to monitor q6 DIC labs
   - Continue to replete fibrinogen with cryo per onc recs.
   - Follow-up with hematology-oncology
   .
   #. Fever/rash/arthralgias - Extensive workup with no clear source.
   Peripheral rash consistent with DIC, although patient has an apparent
   different rash over upper torso.  DDx includes rheumatologic vs.
   infectious vs. malignancy. Currently, blood cultures positive from [**8-30**]
   with coag negative Staph, [**8-31**] culture positive for GPC in pairs and
   clusters.  Urine culture, LP negative. Lyme, erlichia, rpr, rmsf
   titers, monospot, herpes, cmv, hiv, hep b and c serologies, malaria
   smear negative.  Infectious w/u pending here. Given arthralgias,
   rheumatologic disease also a possibility - given high ferritin,
   currently considering Still's disease on differential. [**Doctor First Name **], Rh factor,
   ccp, parvovirus, HLA b27 negative. ID, rheumatology involved. -
   awaiting additional labs - infectious hepatitis, HIV, cryoglobulins.
   - appreciate derm involvment, awaiting bx results
   - Continue vancomycin for bacteremia. Added meropenem yesterday.
   - Per ID, continue doxycycline
   - Continue xigress and solumedrol
   - Acetaminophen 650 mg PO Q6H:PRN temp - limit dose secondary to mild
   transaminitis
   - Continue to monitor blood cultures, picc, urine cx
   - Follow-up ID recs: sent for cryptococcus ag, hisotplasma ag,
   coxiella, brucella, leptospirosis, strongyloides ag.
   - Follow-up rheumatology recs. Will resend C3, C4 in 48 hours.
   - Per onc, will check CT for lymphadenopathy when patient more stable.
   .
   # Transaminitis- elevated on admission associated with her initial
   presentation of fever, rash, arthralgias. LFTs stable, trending down
   except for tbili.  RUQ US not technically good, but no evidence of
   cholecystitis or biliary duct dilation. This could be viral or other
   infectious process. Hep serologies neg at osh. Pending here. Consider
   EBV. Could also be c/w stills disease. Should be higher if shock liver.
   -trend lfts
   -f/[**Location 134**] [**Location (Universities) 1396**] u/s
   -f/u hep and other infectious serologies
   .
   #. Diabetes mellitus: holding po meds
   - Continue sliding scale insulin at this time, may need to uptitrate as
   sugars are elevated in response to stress
   .
   #. FEN/GI - NPO, repletes lytes prn, IV fluid bolus prn for above goals
   .
   #. Prophylaxis - Pneumatic compression boots, no subq heparin given
   possibility of HIT, bowel regimen
   .
   #. Code status - Full code confirmed
   .
   #. Access - PIV, left subclavia, left radial arterial line, FC.
   #. Communication: with husband and sister, numbers in chart and pt's
   room
   .
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2174-9-1**] 10:00 AM
   Multi Lumen - [**2174-9-1**] 12:00 PM
   20 Gauge - [**2174-9-3**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   Regarding last point under hypotension plan -  Patient with RIJ CVL and
   not left SC CVL.  Will continue to use RIJ.  Please disregard point.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1311**] [**Last Name (NamePattern1) 1251**], MD
   on:[**2174-9-3**] 12:38 ------

2174-09-04 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
    Uric acid elevated. Given this finding + hypocalcemia and
   hyperphosphatemia, concern for tumor lysis. CT chest checked to assess
   for lymphoma - preliminary report negative (1. Right adnexal dermoid.
   2. Pulmonary edema. 3. Right anterior chest wall subcutaneous soft
   tissue stranding and asymmetry. 4. Pelvic and inguinal lymph nodes and
   axillary lymph nodes measuring up to
   1.5 cm), final report pending.
   - CT head without contrast, preliminary read - Subtle loss of
   [**Doctor Last Name 1359**]-white matter differentiation and effacement of sulci consistent
   with mild edema. No significant change.
   - Per ID recs, d/c'd clindamycin and started ivermectin in case she has
   reactivation of strongyloides on high dose steroids (strongyloides IgG
   antibody pending)
   - Stopped Zygris (treating sepsis) given that antiphospholipid antibody
   syndrome may be more likely - started heparin drip
   - Several cultures and serologies pending
   - Got cryoprecipitate for fibrinogen < 250
   - Fevers to 103.5, called blood bank and they said it's okay to still
   give the cryoprecipitate
   ** Needs C3, C4 48 hours from start of solumedrol
   - Renal recs - Place CVVHD catheter [**9-4**] given Zygris and 3 pressors;
   added bicarb
   - ID recs - Beta-2 glycoprotein sent; BM biopsy to rule out
   hemophagocytic lymphohistiocytosis; hold off on plasma exchange at this
   time given hypotension
   Allergies:
   Ceclor (Oral) (Cefaclor)
   Hives;
   Last dose of Antibiotics:
   Vancomycin - [**2174-9-1**] 05:00 PM
   Levofloxacin - [**2174-9-2**] 02:00 AM
   Aztreonam - [**2174-9-2**] 03:07 AM
   Clindamycin - [**2174-9-3**] 11:50 AM
   Doxycycline - [**2174-9-3**] 12:16 PM
   Meropenem - [**2174-9-3**] 02:00 PM
   Infusions:
   Fentanyl - 100 mcg/hour
   Vasopressin - 2.4 units/hour
   Heparin Sodium - 900 units/hour
   Phenylephrine - 0.7 mcg/Kg/min
   Norepinephrine - 0.4 mcg/Kg/min
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2174-9-3**] 08:16 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Sedated
   Flowsheet Data as of  [**2174-9-4**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.9
C (103.9
   Tcurrent: 39.6
C (103.2
   HR: 111 (111 - 122) bpm
   BP: 106/52(69) {93/45(60) - 156/69(91)} mmHg
   RR: 19 (15 - 21) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 124.3 kg (admission): 120.2 kg
   Height: 66 Inch
           Total In:
                                                                  7,181 mL
                                                                  1,474 mL
   PO:
           TF:
   IVF:
                                                                  5,724 mL
                                                                  1,432 mL
   Blood products:
                                                                    397 mL
                                                                     42 mL
   Total out:
                                                                    652 mL
                                                                     26 mL
   Urine:
                                                                    252 mL
                                                                     26 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                  6,529 mL
                                                                  1,448 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 704 (680 - 737) mL
   PS : 10 cmH2O
   RR (Spontaneous): 20
   PEEP: 15 cmH2O
   FiO2: 50%
   PIP: 26 cmH2O
   SpO2: 100%
   ABG: 7.30/35/115/16/-7
   Ve: 14.8 L/min
   PaO2 / FiO2: 230
   Physical Examination
   CV
 RRR, normal S1/S2, no murmurs appreciated
   Pulm
 Coarse breath sounds diffusely
   Abdomen
 Hypoactive bowel sounds, soft, notender
   Skin
 Diffuse purpura on all extremities and torso; bullae seen
   particularly on extremities
   Extremities
 Distal LE very cool to touch; nonpalpable pulses; upper
   extremities warm to touch, better perfused
   Labs / Radiology
   55 K/uL
   9.1 g/dL
   304 mg/dL
   5.5 mg/dL
   16 mEq/L
   4.5 mEq/L
   81 mg/dL
   94 mEq/L
   130 mEq/L
   25.7 %
   20.2 K/uL
        [image002.jpg]
                             [**2174-9-2**]  11:45 PM
                             [**2174-9-3**]  12:48 AM
                             [**2174-9-3**]  05:01 AM
                             [**2174-9-3**]  05:29 AM
                             [**2174-9-3**]  11:33 AM
                             [**2174-9-3**]  11:59 AM
                             [**2174-9-3**]  05:13 PM
                             [**2174-9-3**]  05:14 PM
                             [**2174-9-3**]  08:40 PM
                             [**2174-9-3**]  11:49 PM
   WBC
   14.4
   14.6
   15.9
   20.2
   Hct
   28.0
   27.4
   28.2
   25.7
   Plt
   56
   58
   62
   55
   Cr
   4.7
   5.5
   TCO2
   15
   17
   16
   18
   18
   Glucose
   228
   304
   Other labs: PT / PTT / INR:17.8/83.6/1.6, CK / CKMB / Troponin-T:373//,
   ALT / AST:178/301, Alk Phos / T Bili:218/3.5, Amylase / Lipase:29/25,
   Differential-Neuts:88.7 %, Band:20.0 %, Lymph:7.7 %, Mono:2.5 %,
   Eos:0.7 %, D-dimer:9713 ng/mL, Fibrinogen:216 mg/dL, Lactic Acid:4.4
   mmol/L, Albumin:1.8 g/dL, LDH:3840 IU/L, Ca++:5.2 mg/dL, Mg++:2.1
   mg/dL, PO4:8.5 mg/dL
   Assessment and Plan
   46 year-old female with fever, rash, arthralgias of unknown origin now
   with sepsis, respiratory failure, and DIC.
   #. Hypotension - Likely secondary to sepsis, although source unknown at
   this time.  Has grown out coag negative staph in two different sets on
   different days, making contamination unlikely.  Unlikely, however, for
   coag negative staph to cause severity of DIC that patient currently
   has.  PICC culture negative.
   - Continue meropenem, dose vanco based on serum level this AM (vanc
   trough 19.6)
   - Surveillance cultures this PM.
   - f/u blood cultures
   - Given possibility of Still
s, solumedrol 1 gram Q24H x3 days (day
   [**1-31**])
   - TEE recommended per ID, to be done on Monday
   - Continue levophed and vasopressin. Attempt to wean off phenyephrine.
   - F/u cultures and serologies.
   #. Acute renal failure - Patient now with oliguric renal failure,
   improved from anuria yesterday.  Likely secondary to DIC causing
   thrombosis formation in addition to hyptoension causing ATN.
   Creatinine continues to rise, this AM to 4.7 from 4.3.  Potassium
   stable around 4.6.
   - Discuss with renal regarding CVVH
 will likely need it today
   - Patient will require additional vas cath for CVVH
 infuse platelets
   prior to/during placement
   #. Coagulopathy/thrombocytopenia: Most likely secondary to DIC.
   Patient has received 5 units of cryo. Per heme-onc, will transfuse
   cryoprecipitate for fibrinogen <250. This morning fibrinogen 95
 will
   transfuse 2 units cryo.
   - Cont to monitor q6 DIC labs
   - Continue to replete fibrinogen with cryo per onc recs.
   - Follow-up with hematology-oncology
   #. Fever/rash/arthralgias - Extensive workup with no clear source.
   Peripheral rash consistent with DIC, and now torso region as well. DDx
   includes rheumatologic vs. infectious vs. malignancy (catastrophic APLA
   syndrome vs. lymphoma vs. Still
s disease vs. hemophagocytic
   lymphangiohistiocytosis). Currently, blood cultures positive from [**8-30**]
   with coag negative Staph, [**8-31**] culture positive for GPC in pairs and
   clusters.  All other blood cultures negative Urine culture, LP
   negative. Lyme, erlichia, rpr, rmsf titers, monospot, herpes, cmv, hiv,
   hep b and c serologies, malaria smear negative.  Infectious w/u pending
   here. Given arthralgias, rheumatologic disease also a possibility -
   given high ferritin, currently considering Still's disease on
   differential. [**Doctor First Name **], Rh factor, ccp, parvovirus, HLA b27 negative. ID,
   rheumatology involved. - awaiting additional labs - infectious
   hepatitis, HIV, cryoglobulins. Skin biopsy results nonspecific
   (thrombosed vessels)
   - Continue vancomycin for bacteremia. Added meropenem.
   - Per ID, continue doxycycline
   - Zygress discontinued [**1-1**] concern that catastrophic APLA syndrome is
   more likely.
   - Continue solumedrol today, day [**1-31**].
   - Acetaminophen 650 mg PO Q6H:PRN temp - limit dose secondary to mild
   transaminitis
   - Continue to monitor blood cultures, urine cx
   - Follow-up ID recs: sent for cryptococcus ag, hisotplasma ag,
   coxiella, brucella, leptospirosis, strongyloides ag.
   - Follow-up rheumatology recs. Will resend C3, C4 today
   - Per onc, will check CT for lymphadenopathy when patient more stable.
   # Transaminitis- Elevated on admission associated with her initial
   presentation of fever, rash, arthralgias. LFTs stable, trending down
   except for tbili.  RUQ US not technically good, but no evidence of
   cholecystitis or biliary duct dilation. This could be viral or other
   infectious process. Hep serologies neg at osh. Pending here. Consider
   EBV. Could also be c/w stills disease. Should be higher if shock liver.
   - Trend lfts
   - F/u hep and other infectious serologies; HCV (-), HBV viral load
   pending
   #. Diabetes mellitus: Holding po meds. Blood glucose elevated, likely
   secondary to high-dose steroids
 given limited access, will have to
   hold on insulin sliding scale.
   - Continue sliding scale insulin at this time, may need to uptitrate as
   sugars are elevated in response to stress
   #. FEN/GI - NPO, repletes lytes prn, IV fluid bolus prn for above goals
   #. Prophylaxis
 Heparin drip
 held this morning in anticipation of
   bone marrow biopsy, bowel regimen
   #. Code status - Full code confirmed
   #. Access - PIV, RIJ, left radial arterial line, FC
   #. Communication: with husband and sister, numbers in chart and pt's
   room
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2174-9-1**] 10:00 AM
   Multi Lumen - [**2174-9-1**] 12:00 PM
   20 Gauge - [**2174-9-3**] 01:00 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2174-09-05 06:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   CT-head official read:
   Persistent effacement of sulci with poor [**Doctor Last Name 1359**]-white matter
   differentiation, likely due to mild cerebral edema. The temporal horns
   of the lateral ventricles and the third ventricle have slightly
   decreased size, concerning for subtle increase in intracranial
   pressure. Clinical correlation and close follow-up are recommended. MRI
   would also be helpful for further evaluation.
   -Pt continues to be on 3 pressors with labile pressures --> MAP went
   into the 50's and 60's.  Pt given IVF 1.5L, maxed out on levophed &
   vasopressin.  Considering starting epi drip if patient is maxed out on
   neo.
   Renal: HD cath placed in R femoral --> patient started on CVVH. If
   patient tolerates will call blood bank to start plasma exhange.
   ID: unable to account for septic presentation based on coag neg staph,
   possible other source --> check bacterial/fungal/AFB stain.
   Cont. vanco (trough goal 15-20), [**Last Name (un) **], ambisome
   Onc: Sternal BM biopsy today
   CXR after line placement overnight showed worsening for pulmonary edema
   vs ARDS
   Pt given 2U pRBC, 4U cryo
   - pt with coffee grounds in NG tube, pt already on [**Hospital1 **] IV PPI
   - pt with elevated K (5.2) and worsening acidosis --> increased Bicarb
   to 150cc/hr.
   - decreased Ca (5.9) --> corrected 7.7, gave 4gm of CaGluconate.
   - Pt on Heparin gtt, will monitor Factor Xa levels (goal 0.3-0.7)
   - Pt with episode of hypertension SBP into the 200's and RR 30-40.  The
   pressors were lowered and she was placed on PS, given fentanyl bolus.
   Pt pressures returned back to baseline and switched back
 DIALYSIS CATHETER - START [**2174-9-4**] 04:00 PM
 FEVER - 104.1
F - [**2174-9-4**] 04:00 PM
   Allergies:
   Ceclor (Oral) (Cefaclor)
   Hives;
   Last dose of Antibiotics:
   Clindamycin - [**2174-9-3**] 11:50 AM
   Doxycycline - [**2174-9-3**] 12:16 PM
   Meropenem - [**2174-9-3**] 02:00 PM
   Infusions:
   Vasopressin - 2.4 units/hour
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Insulin - Regular - 10 units/hour
   Phenylephrine - 2.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2174-9-5**] 06:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.1
C (104.1
   Tcurrent: 36.8
C (98.3
   HR: 104 (97 - 139) bpm
   BP: 87/62(72) {69/42(52) - 139/70(83)} mmHg
   RR: 30 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 124.3 kg (admission): 120.2 kg
   Height: 66 Inch
    CVP: 8 (5 - 8)mmHg
   Total In:
                                                                  8,494 mL
                                                                  1,188 mL
   PO:
   TF:
   IVF:
                                                                  7,460 mL
                                                                    947 mL
   Blood products:
                                                                  1,034 mL
                                                                    240 mL
   Total out:
                                                                     46 mL
                                                                    876 mL
   Urine:
                                                                     46 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,448 mL
                                                                    312 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 686 (607 - 687) mL
   PS : 10 cmH2O
   RR (Set): 30
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   SpO2: 100%
   ABG: 7.34/30/91/13/-8
   Ve: 18.1 L/min
   PaO2 / FiO2: 182
   Physical Examination
   General Appearance: severe whole body anasarca
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished), + dopplers in lower ext
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   b/l)
   Abdominal: Soft, hypoactive BS
   Extremities: Right: 4+, Left: 4+
   Skin:  Not assessed, whole bosy purpuric rash with bullae on ext.
   Neurologic: No(t) Follows simple commands, Responds to: Unresponsive,
   Movement: Non -purposeful, Sedated, Tone: Not assessed
   Labs / Radiology
   44 K/uL
   8.0 g/dL
   111 mg/dL
   6.9 mg/dL
   13 mEq/L
   4.9 mEq/L
   103 mg/dL
   88 mEq/L
   128 mEq/L
   23.2 %
   18.8 K/uL
        [image002.jpg]
                             [**2174-9-3**]  08:40 PM
                             [**2174-9-3**]  11:49 PM
                             [**2174-9-4**]  05:45 AM
                             [**2174-9-4**]  02:14 PM
                             [**2174-9-4**]  02:39 PM
                             [**2174-9-4**]  07:45 PM
                             [**2174-9-4**]  10:30 PM
                             [**2174-9-5**]  12:36 AM
                             [**2174-9-5**]  12:38 AM
                             [**2174-9-5**]  05:17 AM
   WBC
   20.2
   20.9
   19.6
   19.1
   18.8
   Hct
   25.7
   24.6
   26.7
   20.9
   23.2
   Plt
   55
   50
   43
   41
   44
   Cr
   6.0
   6.8
   6.9
   TCO2
   18
   18
   14
   17
   Glucose
   297
   188
   111
   Other labs: PT / PTT / INR:26.1/150.0/2.6, CK / CKMB /
   Troponin-T:1625//, ALT / AST:[**Telephone/Fax (1) 1507**], Alk Phos / T Bili:343/4.1,
   Amylase / Lipase:29/25, Differential-Neuts:84.0 %, Band:4.0 %,
   Lymph:12.0 %, Mono:0.0 %, Eos:0.0 %, D-dimer:9713 ng/mL, Fibrinogen:334
   mg/dL, Lactic Acid:6.4 mmol/L, Albumin:1.8 g/dL, LDH:5375 IU/L,
   Ca++:6.1 mg/dL, Mg++:2.2 mg/dL, PO4:9.7 mg/dL
   Assessment and Plan
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
 HYPOCALCEMIA (LOW CALCIUM)
 HYPERGLYCEMIA
 LIVER FUNCTION ABNORMALITIES
 DELIRIUM / CONFUSION
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 76**])
 DISSEMINATED INTRAVASCULAR COAGULATION (DIC)
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 THROMBOCYTOPENIA, ACUTE
 BACTEREMIA
   46 year-old female with fever, rash, arthralgias of unknown origin now
   with sepsis, respiratory failure, and DIC.
   #. Shock/Hypotension - Pt continues to be dependent on 3 pressors
   (levophed, neo, and vasopressin).  Likely combination of underlying
   disease (possible APS vs Adult Stills vs HLH) on top of sepsis [**1-1**] coag
   neg staph infection (resistent to oxacillin) and DIC.  Unlikely that
   alone coag neg staph could cause this degree of DIC in a patient.  Pt
   continues to be febrile, but additional source of infection not evident
   given negative blood cultures, UA, CT-scan.
   - Continue levophed and vasopressin, phenyephrine to maintain MAPS >65,
   can start epi if continues to be hypotensive.
   - Continue empiric meropenem, dose vanco based on serum level this AM
   (vanc trough goal 15-20)
   - empiric fungal coverage with ambisone
   - Surveillance cultures
   - f/u blood cultures
   - Given possibility of Still
s patient completed, solumedrol 1 gram
   Q24H x3 days --> f/u with rheum regarding further treatment.
   - Will discuss initiaition of plasma exchange this AM since patient's
   BP is tolerating CVVH
   - TEE recommended per ID, to be done on Monday??
   - F/u cultures and serologies.
   #. Acute renal failure - Patient with anuric renal failure.  Worsening
   Cr, metabolic acidosis, and electrolyte abnormalities --> hypocalcemia
   (corrected 7.9), hyperphos, hyponatermia.  Renal failure likely
   secondary to DIC causing thrombosis formation in addition to
   hyptoension causing ATN.   Placement of femoral dialysis cath and
   initiation of CVVH overnight.  Pt tolerating CVVH
   -cont CVVH with correction of lytes and fluid balance
   - pt with increasing Phos will start Phoslo
   - f/u with renal recs
   #. Coagulopathy/thrombocytopenia: Most likely secondary to DIC.
   Patient has received 4 units of cryo overnight. Per heme-onc, will
   transfuse cryoprecipitate for fibrinogen <250.  Fibrinogen 334 after 4U
   of cryo overnight. Hem-Onc performed BM to r/o HLH.
   - Cont to monitor q6 DIC labs
   - Continue to replete fibrinogen with cryo per onc recs.
   - Follow-up with hematology-oncology
   - f/u biopsy results
   - cont heparin gtt and check Factor Xa level (goal 0.3-0.7)
   #Anemia: Pt was transfused 2U pRBC for Hct of 20.9.  Anemia [**1-1**] subq
   bleeding, chronic inflammation, marrow supression, but also should
   consider RP bleed s/p femoral dialysis cath placement.  Will trend and
   monitor
   - Q6 CBC labs
   - Transfuse Hct >25
   #. Fever/rash/arthralgias - Extensive workup with no clear source.
   Purpuric rash consistent with DIC. DDx includes rheumatologic vs.
   infectious vs. malignancy (catastrophic APLA syndrome vs. Still
   disease vs. hemophagocytic lymphangiohistiocytosis). Currently, blood
   cultures positive from [**8-30**], [**8-31**] with coag negative Staph resistent to
   oxacillin.  All other blood cultures negative Urine culture, Lyme,
   erlichia, rpr, rmsf titers, monospot, herpes, cmv, hiv, hep b and c
   serologies, malaria smear negative.  Sent for cryptococcus ag,
   hisotplasma ag, coxiella, brucella, leptospirosis, strongyloides ag.
   infectious w/u pending here. Given arthralgias, rheumatologic disease
   also a possibility - given high ferritin, currently considering Still's
   disease on differential. ID, rheumatology, hem/onc involved. awaiting
   additional labs . Skin biopsy results nonspecific (thrombosed vessels).
   Sternal bone marrow biopsy by hem/onc for HLH.
   - will discuss initiaition of plasma exchange since pt BP are
   tolerating CVVH
   - Continue vancomycin for bacteremia.
   - empiric  meropenem for GNR coverage and ambisone for empiric fungal
   per ID.
   - Per ID, continue doxycycline.
   - Completed solumedrol day [**1-31**].
   - Continue to monitor blood cultures, urine cx
   - Follow-up ID recs:
   - Follow-up rheumatology recs.
   - follow-up Onc recs
   # [**Name (NI) 1508**] Pt with severely elevated LFT consistent with shocked
   liver.  Elevated on admission associated with her initial presentation
   of fever, rash, arthralgias. LFTs stable, trending down except for
   tbili.  RUQ US not technically good, but no evidence of cholecystitis
   or biliary duct dilation. This could be viral or other infectious
   process. Hep serologies neg. Consider EBV --> VL pending. Could also be
   c/w stills disease.
   - see above for management of hypotension
   - Trend lfts
   - F/u hep and other infectious serologies; HCV (-), HBV (-), HBA (-)
   #. Diabetes mellitus: Pt placed on insulin gtt.  Holding po meds. Blood
   glucose elevated, likely secondary to high-dose steroids.
   - Continue insulin gtt, may need to uptitrate as sugars are elevated in
   response to stress
   #. FEN/GI - NPO, repletes lytes prn, IV fluid bolus prn for above goals
   #. Prophylaxis
 Heparin drip, bowel regimen, IV PPI
   #. Code status - Full code confirmed
   #. Access - PIV, RIJ, left radial arterial line, R femoral dialysis
   cath, FC
   #. Communication: with husband and sister, numbers in chart and pt's
   room
   # Dispo: ICU level of care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2174-9-1**] 10:00 AM
   Multi Lumen - [**2174-9-1**] 12:00 PM
   20 Gauge - [**2174-9-3**] 01:00 AM
   Dialysis Catheter - [**2174-9-4**] 04:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   Addendum:
   Dr. [**Last Name (STitle) 1119**] spoke with the patient
s sister, who is the HCP this
   morning, and was informed that the family is moving towards CMO.  We
   continue current therapies while a final decision is made and family
   members are assembled.  However, we will hold off on additional lab
   test, imaging, and procedures in the mean time.